US07402581B2
(b) 3-Cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide
The compound was synthesized in an analogous way to that of Method 20b but using 3-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-1-naphthamide rather than N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide (yield, 78%). 1H NMR (400 MHz, CDCl3): 2.4-2.6 (m, 1H), 2.7 (s, 3H), 2.8-4.4 (cm, 4H), 6.2 (s, <1H), 6.8-7.8 (cm, 9H), 8.2 (s, 1H), 9.8 (s, 1H).

reactant | 3-cyano-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-1-naphthamide | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)C[C@@H](CC=C)C1=CC=C(C=C1)F | C24H21FN2O
reactant | N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide | FC1=CC=C(C=C1)[C@@H](CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)CC=C | C21H18F7NO
product | 3-Cyano-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)C[C@@H](CC=O)C1=CC=C(C=C1)F | C23H19FN2O2
